US07101892B2
2-Benzenesulfonyl-5-bromo-2-methyl-pentanoic acid methyl ester
A solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1M, 6.6 ml, 6.6 mmol) was added dropwise to a stirred solution of 2-benzenesulfonylpropionic acid methyl ester (1.38 g, 5.7 mmol) in tetrahydrofuran at −78° C. The mixture was stirred for 30 min. and 1,3-dibromopropane (3.17 ml, 31.2 mmol) was added. The mixture was slowly warmed to room temperature and stirred for 4 days. After quenching with satd. aqueous NH4Cl, the mixture was extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified on silica gel (i-hexane-ethyl acetate 5–20%) to give the title product (330 mg, 15%).

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-benzenesulfonylpropionic acid methyl ester | 5.7 mmol, 1.38 g | COC(C(C)S(=O)(=O)C1=CC=CC=C1)=O | C10H12O4S
reactant | 1,3-dibromopropane | 31.2 mmol, 3.17 ml | BrCCCBr | C3H6Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.6 mmol, 1M, 6.6 ml | O1CCCC1 | C4H8O
product | 2-Benzenesulfonyl-5-bromo-2-methyl-pentanoic acid methyl ester | 330 mg, 15% | COC(C(CCCBr)(C)S(=O)(=O)C1=CC=CC=C1)=O | C13H17BrO4S
